US05223513
To a mixture of 4-acetoxy-3,5-dimethoxybenzoic acid (672 mg), diphenylphosphoryl azide (990 mg) and benzene (15 ml) was dropwise added triethylamine (0.42 ml), while stirring. The mixture was stirred for 20 minutes at room temperature and further for 30 minutes under refluxing to obtain a solution of 4-acetoxy-3,5-dimethoxyphenyl isocyanate in benzene. 3-Amino-4-(2-chlorophenyl)-1,6,7-trimethyl-2(1H)-quinolone (624 mg) was added to the above solution and the mixture was refluxed for 2.5 hours. The mixture was washed with water, aqueous sodium hydrogen carbonate solution, water, diluted hydrochloric acid and then water in this order, dried (MgSO4) and concentrated.

reactant | 4-acetoxy-3,5-dimethoxybenzoic acid | 672 mg | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1OC)OC | C11H12O6
reactant | diphenylphosphoryl azide | 990 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 4-acetoxy-3,5-dimethoxyphenyl isocyanate | C(C)(=O)OC1=C(C=C(C=C1OC)N=C=O)OC | C11H11NO5
